US07723330B2
Step C: Preparation of N-(3-fluoro-4-(3-(1-methyl-1H-imidazol-2-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
N-(4-(1-(4-Methoxybenzyl)-3-(1-methyl-1H-imidazol-2-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide (127 mg, 0.192 mmol) and TFA (2 mL) were charged in a 50 mL single-neck, round-bottomed flask. The reaction mixture was stirred at 60° C. until the starting material had been consumed (overnight). Then the reaction was cooled to room temperature and the CF3COOH was removed under reduced pressure. The residue was partitioned between DCM (50 mL) and saturated NaHCO3 (50 mL). The phases were separated and the aqueous phase was extracted with DCM (3×50 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated to yield a crude product. The crude product was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 100/1 to 10/1, v/v) to afford product (62.5 mg, 60.2%). LRMS (APCI pos): >99% purity, 254 nm, m/e 541 (M+1). 1H NMR (400 MHz, DMSO-d6 δ 14.01 (s, 1H), 11.71 (s, 1H), 8.37 (m, 2H), 8.27 (d, 1H), 8.06 (m, 1H), 7.76 (d, 1H), 7.68 (m, 2H), 7.52-7.63 (m, 2H), 7.47 (d, 1H), 7.41 (m, 2H), 6.36 (d, 1H), 3.31 (s, 3H).

reactant | N-(4-(1-(4-Methoxybenzyl)-3-(1-methyl-1H-imidazol-2-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 0.192 mmol, 127 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C=3C(N(N=CC3)C3=CC=C(C=C3)F)=O)F)C=3N(C=CN3)C)C=C1 | C35H26F2N8O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(3-fluoro-4-(3-(1-methyl-1H-imidazol-2-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 62.5 mg, 60.2% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NN=C2C=2N(C=CN2)C)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C27H18F2N8O3
